### PR TITLE
Add Erdős Problem 1025 (independent sets for set mappings on pairs), link the formal proof

### LINKED ISSUE #6179: Erdős Problem 1025
### What is the Erdős problem?

https://www.erdosproblems.com/1025

Let $f$ be a function from all pairs of elements in $\{1,\ldots,n\}$ to $\{1,\ldots,n\}$ such that $f(x,y)\neq x$ and $\neq y$ for all $x,y$. We call $X\subseteq \{1,\ldots,n\}$ independent if whenever $x,y\in X$ we have $f(x,y)\not\in X$. Let $g(n)$ be such that, in every function $f$, there is an independent set of size at least $g(n)$. Estimate $g(n)$.

Status: solved (Lean). $g(n) = \Theta(\sqrt n)$ (Spencer; Conlon–Fox–Sudakov); a formal proof exists in plby/lean-proofs (`Erdos1025.erdos_1025`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6179.

### What changed
Adds `FormalConjectures/ErdosProblems/1025.lean` with `IsIndependent f X` for a set mapping `f : Sym2 (Fin n) → Fin n`, `g n` (the largest `k ≤ n` such that every `f` with `f(x,y) ∉ {x,y}` has an independent set of size `≥ k`) and `erdos_1025` (`research solved`): `g n = Θ(√n)` (Spencer [Sp72], Conlon–Fox–Sudakov [CFS16]). Linked to plby/lean-proofs `Erdos1025.erdos_1025` (Codex and GPT-5.6 Sol; 2 Mathlib-only files).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos1025.erdos_1025` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms. plby's set mappings are defined on the subtype of non-diagonal pairs and `g` is a `Nat.findGreatest`; the bridge shows the two guarantee predicates agree (extending a mapping on pairs to `Sym2` arbitrarily on the diagonal) and that `sSup` of the bounded set equals `findGreatest`:

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics

namespace Bridge1025

/-- The guarantee predicates agree. -/
lemma guaranteed_iff (n k : ℕ) :
    (k ≤ n ∧ ∀ f : Sym2 (Fin n) → Fin n,
      (∀ x y, x ≠ y → f s(x, y) ≠ x ∧ f s(x, y) ≠ y) →
        ∃ X : Finset (Fin n), Erdos1025.IsIndependent f X ∧ k ≤ X.card) ↔
    Erdos1025Plby.Guaranteed n k := by
  unfold Erdos1025Plby.Guaranteed
  refine and_congr_right fun _ => ⟨fun h f' hf' => ?_, fun h f hf => ?_⟩
  · -- extend a set mapping on pairs to all of `Sym2`
    let f : Sym2 (Fin n) → Fin n := fun e =>
      if he : e.IsDiag then (Quot.out e).1 else f' ⟨e, he⟩
    have hfne : ∀ x y, x ≠ y → f s(x, y) ≠ x ∧ f s(x, y) ≠ y := by
      intro x y hxy
      have hd : ¬ (s(x, y) : Sym2 (Fin n)).IsDiag := by simpa using hxy
      have := hf' ⟨s(x, y), hd⟩
      simp only [Erdos1025Plby.Pair.vertices, Sym2.toFinset_mk_eq, Finset.mem_insert,
        Finset.mem_singleton, not_or] at this
      simp only [f, hd, dite_false]
      exact this
    obtain ⟨X, hX, hk⟩ := h f hfne
    refine ⟨X, fun e he => ?_, hk⟩
    obtain ⟨e, hd⟩ := e
    induction e using Sym2.ind with
    | _ x y =>
      have hxy : x ≠ y := by simpa using hd
      simp only [Erdos1025Plby.Pair.vertices, Sym2.toFinset_mk_eq, Finset.insert_subset_iff,
        Finset.singleton_subset_iff] at he
      have := hX x he.1 y he.2 hxy
      simpa [f, hd] using this
  · let f' : Erdos1025Plby.Pair (Fin n) → Fin n := fun e => f e.1
    have hf' : Erdos1025Plby.AvoidsEndpoints f' := by
      rintro ⟨e, hd⟩
      induction e using Sym2.ind with
      | _ x y =>
        have hxy : x ≠ y := by simpa using hd
        simp only [Erdos1025Plby.Pair.vertices, Sym2.toFinset_mk_eq, Finset.mem_insert,
          Finset.mem_singleton, not_or, f']
        exact hf x y hxy
    obtain ⟨X, hX, hk⟩ := h f' hf'
    refine ⟨X, fun x hx y hy hxy => ?_, hk⟩
    have hd : ¬ (s(x, y) : Sym2 (Fin n)).IsDiag := by simpa using hxy
    have := hX ⟨s(x, y), hd⟩ (by
      simp only [Erdos1025Plby.Pair.vertices, Sym2.toFinset_mk_eq, Finset.insert_subset_iff,
        Finset.singleton_subset_iff]
      exact ⟨hx, hy⟩)
    exact this

lemma g_eq (n : ℕ) : Erdos1025.g n = Erdos1025Plby.g n := by
  classical
  unfold Erdos1025.g Erdos1025Plby.g
  simp only [guaranteed_iff]
  apply le_antisymm
  · apply csSup_le'
    intro k hk
    exact Nat.le_findGreatest hk.1 hk
  · apply le_csSup ⟨n, fun k hk => hk.1⟩
    have hspec := Nat.findGreatest_spec (P := Erdos1025Plby.Guaranteed n) (m := 0) (n := n)
      (Nat.zero_le _) (Erdos1025Plby.guaranteed_zero n)
    exact hspec

theorem erdos_1025_bridge : type_of% Erdos1025.erdos_1025 := by
  simpa only [g_eq] using Erdos1025Plby.erdos_1025

end Bridge1025
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1025»` passes.

### CODE REVIEW

**Comment by Konamiu** [comment]
Note: #6020 (xukp20, 2026-09-15) also adds 1025. This PR additionally links plby's verified proof with a bridge; happy to close in favour of #6020 or to port the link there, whichever the maintainers prefer.

File: FormalConjectures/ErdosProblems/1025.lean [hunk 1]
```diff
@@ -0,0 +1,69 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1025.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
Thanks
